US04829067
A mixture of 2.6 g of methyl 2-(4-aminophenyl)benzofuran-7-carboxylate, 1.52 ml of methyl iodide, 6.72 g of potassium carbonate and 25 ml of dimethylformamide is stirred at room temperature for 1 hour. 2.2 ml of methyl iodide are added to the mixture and the mixture is stirred for 2 hours. The reaction mixture is poured into water and the aqueous mixture is extracted with ethyl acetate. The extract is washed with water, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=1:4) to give 2.0 g of methyl 2-(4-dimethylaminophenyl)benzofuran-7-carboxylate as orange needles.

reactant | methyl 2-(4-aminophenyl)benzofuran-7-carboxylate | 2.6 g | NC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2C(=O)OC | C16H13NO3
reactant | methyl iodide | 1.52 ml | CI | CH3I
reactant | potassium carbonate | 6.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | 2.2 ml | CI | CH3I
solvent | water | O | H2O
product | methyl 2-(4-dimethylaminophenyl)benzofuran-7-carboxylate | 2.0 g | CN(C1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2C(=O)OC)C | C18H17NO3
